US07435837B2
Treatment of 2-bromo-4-methylphenol (19.09 g, 102 mmol) with potassium carbonate (56.0 g, 400 mmol) and allyl bromide (15.96 g, 130 mmol), followed by refluxing the resultant allyl ether in mesitylene generally according to the procedure described for Intermediate 8 provided 2-allyl-6-bromo-4-methylphenol. Treatment of 2-allyl-6-bromo-4-methylphenol (5.21 g, 23.0 mmol) with 3-chloroperoxybenzoic acid (9.13 g, 34.50 mmol, 77%) followed by potassium carbonate (7.9 g, 57.5 mmol) generally according to the procedure described for Intermediate 9 afforded 2.14 g (43%) of (±)-(7-bromo-5-methyl-2,3-dihydro-1-benzofuran-2-yl)methanol. Treatment of (±)-(7-bromo-5-methyl-2,3-dihydro-1-benzofuran-2-yl)methanol (2.41 g, 10.0 mmol) with p-toluenesulfonyl chloride (2.1 g, 11.0 mol) generally according to the procedure described for Intermediate 10 gave 3.31 g (84%) of (±)-(7-bromo-5-methyl-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate as a yellow oil. Treatment of (±)-(7-bromo-5-methyl-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate (0.25 g, 0.63 mmol) and phenylboronic acid (0.23 g, 1.89 mmol) generally according to the procedure described for Intermediate 154 afforded 0.23 g, (93%) of (±)-(5-methyl-7-phenyl-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate. Treatment of the tosylate with sodium azide (0.19 g, 3.0 mmol) generally according to the procedure described for Intermediate 98 afforded 0.15 g (97%) of (±)-2-(azidomethyl)-5-methyl-7-phenyl-2,3-dihydro-1-benzofuran. Treatment of (±)-2-(azidomethyl)-5-methyl-7-phenyl-2,3-dihydro-1-benzofuran with polymer-supported triphenylphosphine (0.297 g, 1.13 mmol) according to the procedure described in Example 21 afforded 0.106 g (61%) of (±)-[(5-methyl-7-phenyl-2,3-dihydro-1-benzofuran-2-yl)methyl]amine as a white solid, hydrochloride salt. mp 227-228° C.

reactant | 2-bromo-4-methylphenol | 102 mmol, 19.09 g | BrC1=C(C=CC(=C1)C)O | C7H7BrO
reactant | potassium carbonate | 400 mmol, 56.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 130 mmol, 15.96 g | C(C=C)Br | C3H5Br
reactant | allyl ether | C(C=C)OCC=C | C6H10O
reactant | 2-allyl-6-bromo-4-methylphenol | C(C=C)C1=C(C(=CC(=C1)C)Br)O | C10H11BrO
reactant | 2-allyl-6-bromo-4-methylphenol | 23.0 mmol, 5.21 g | C(C=C)C1=C(C(=CC(=C1)C)Br)O | C10H11BrO
reactant | 3-chloroperoxybenzoic acid | 34.50 mmol, 9.13 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | potassium carbonate | 57.5 mmol, 7.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | mesitylene | C1(=CC(=CC(=C1)C)C)C | C9H12
product | (±)-(7-bromo-5-methyl-2,3-dihydro-1-benzofuran-2-yl)methanol | 2.14 g, 43% | BrC1=CC(=CC=2CC(OC21)CO)C | C10H11BrO2
